US09428509B2
1-(2-Methyl-2-((trimethylsilyl)oxy)propyl)-4-nitro-1H-pyrazole
To a solution of 2-methyl-1-(4-nitro-1H-pyrazol-1-yl)propan-2-ol (1 equiv) in dry DMF (0.18 M) was added trimethylsilyl chloride (1.26 equiv) at 0° C. and imidazole (2.55 equiv) under an atmosphere of nitrogen. The resulting mixture was stirred at room temperature for 4 h and then diluted with ethyl acetate. The organic solution was washed with water and brine, dried over sodium sulfate and concentrated under reduced pressure to afford the title compound as a yellow oil (75.5% yield). 1H NMR (400 MHz, CHLOROFORM-d1) δ ppm (9.06 (bs, 1H), 7.91 (s, 1H), 4.13 (s, 3H), 3.79 (s, 2H), 1.70 (s, 9H), 1.68 (s, 6H). MS (ESI) m/z 258.1 [M+H]+.

reactant | 2-methyl-1-(4-nitro-1H-pyrazol-1-yl)propan-2-ol | 1 equiv | CC(CN1N=CC(=C1)[N+](=O)[O-])(C)O | C7H11N3O3
reactant | trimethylsilyl chloride | 1.26 equiv | C[Si](C)(C)Cl | C3H9ClSi
reactant | imidazole | 2.55 equiv | N1C=NC=C1 | C3H4N2
solvent | DMF | 0.18 M | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Methyl-2-((trimethylsilyl)oxy)propyl)-4-nitro-1H-pyrazole | 75.5% yield | CC(CN1N=CC(=C1)[N+](=O)[O-])(C)O[Si](C)(C)C | C10H19N3O3Si
